US05177075
A mixture of 3.0 g (22.0 mmol) of 3,4-dihydro-5-hydroxy-1(2H)-isoquinolinone and 6.7 g (48.5 mmol) of potassium carbonate in 100 ml of ethanol was refluxed for one hour. Then 10.9 ml (100 mmol) of 1-bromo-3-chloropropanol was added and refluxing continued for five hours. The solution was cooled and concentrated. The residue was dissolved in chloroform, filtered and concentrated to provide 4.45 g (85%) of 5-(3-chloropropoxy)-3,4-dihydro-1(2H)-isoquinolinone; mp 131.5°-133°.

reactant | 3,4-dihydro-5-hydroxy-1(2H)-isoquinolinone | 22.0 mmol, 3.0 g | OC1=C2CCNC(C2=CC=C1)=O | C9H9NO2
reactant | potassium carbonate | 48.5 mmol, 6.7 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-bromo-3-chloropropanol | 100 mmol, 10.9 ml | BrC(CCCl)O | C3H6BrClO
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 5-(3-chloropropoxy)-3,4-dihydro-1(2H)-isoquinolinone | 4.45 g, 85% | ClCCCOC1=C2CCNC(C2=CC=C1)=O | C12H14ClNO2
